Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion, delirium
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of a 
previous
psychiatric episode, who was brought in by her family after a
psychotic break after the death of her son. She was stabilized 
in
the emergency room with a plan for discharge to a psychiatric
facility. However, her urine culture returned on day 3 with
Corynebacerium urealyticum > 100,000 CFU. On further 
questioning,
the patient endorsed urinary symptoms, including for the past
several weeks. Given the highly resistant nature of her UTI, and
concerns that it may influence her presentation, she was 
admitted
to medicine for treatment with vancomycin.

On arrival to the floor, the patient is screaming obscenities 
but
shortly after interviewed in her room where she was noted to be
much calmer and very pleasant. Her thought process was 
non-linear
and thus unable to appropriately obtain an accurate review of
symptoms. She was able to affirm dysuria without abdominal or
back pain. When asked if she any thoughts of hurting herself or
others, replied, "Oh, I would never do that." 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Hx of UTI
Diverticulitis
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM: 
VITALS: 
___ Temp: 98.4 PO BP: 122/84 HR: 112 RR: 18 O2 sat: 
98%
O2 delivery: RA 
GENERAL: disheveled woman resting in bed with sad affect,
currently calm and cooperative. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. 
PSYCH: currently pleasant and calm, though with sad affect and
non-linear speech. 

DISCHARGE EXAM
98.5. 135/83 67 18 100%RA
GEN: pleasant elderly female in NAD
HEENT: MMM
CV:RRR
RESP: CTAB 
ABD: soft, NT, ND, NABS
GU: no foley
EXTR: warm, no edema
NEURO: CN ___ intact, strength ___ in all four extremities 
(proximal and distal muscle groups), Sensation intact, 
Finger-nose-finger intact ___, rapid alternating movement intact 
___, no pronator drift, negative rhomberg, normal gait.  Oriented 
x 3
 
Pertinent Results:
___ 07:20AM BLOOD WBC: 5.7 RBC: 4.57 Hgb: 12.1 Hct: 36.7
MCV: 80* MCH: 26.5 MCHC: 33.0 RDW: 13.8 RDWSD: 40.___ 

___ head without contrast:
No acute intracranial hemorrhage, or mass.

___: 
No acute cardiopulmonary process.

Urine Cx 
                            SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             CORYNEBACTERIUM SPECIES 
(DIPHTHEROIDS)
                             |   
ERYTHROMYCIN----------     2 R
GENTAMICIN------------     2 S
PENICILLIN G----------   0.5 I
VANCOMYCIN------------     1 S

___ 07:45AM BLOOD Glucose-91 UreaN-13 Creat-1.3* Na-142 
K-4.2 Cl-106 HCO3-20* AnGap-16
___ 07:20AM BLOOD Glucose-84 UreaN-15 Creat-1.6* Na-140 
K-4.3 Cl-106 HCO3-22 AnGap-12
___ 01:01PM BLOOD Glucose-81 UreaN-9 Creat-1.2* Na-137 
K-3.7 Cl-102 HCO3-23 AnGap-12
___ 01:09PM BLOOD ALT-11 AST-21 AlkPhos-93 TotBili-0.5
___ 01:01PM BLOOD Calcium-9.1 Phos-3.3 Mg-1.8
___ 01:09PM BLOOD Folate-18
___ 05:36PM BLOOD %HbA1c-5.6 eAG-114
___ 01:09PM BLOOD TSH-0.87
___ 01:09PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ woman who presents with acute 
delirium/psychosis after the death of her son, found to have a 
UTI and acute kidney injury.  Pt was treated with a 7 day course 
of IV Vanc and renal function recovered with IVF.   

Acute Corynebacterium urealyticum UTI
Completed 7-day course of Vancomycin while inpatient and 
symptoms resolved entirely.

Acute kidney injury: creatinine peaked at 1.6 and came down to 
1.2 by the time of discharge.   Pt should get follow up labs 
when seen by PCP next week.  Verbal handoff provided to Dr. 
___.

Acute Encephalopathy/Delirium with possible underlying cognitive 
deficit:  Pt presented with acute psychosis and was placed under 
___ by psychiatry.   Pt was managed with low dose haldol 
while getting medical treatment for UTI and ___.  Pt was 
initially very confused but her mental status improved 
significantly throughout the hospitalization and haldol was 
discontinued.  Her neuro exam was entirely reassuring and OT had 
recommended rehab because pt was still requiring prompting to 
complete ADLs. Pt was noted to have a MOCA of ___ when 
evaluated by psych on ___ suggesting some baseline cognitive 
impairment.   However, by the time of discharge, pt was 
consistently alert and oriented x3.  Pt was seen by multiple 
family/sisters who felt that she was back to baseline functional 
status.   Pt was very eager to return home and did not want to 
go to rehab.  Her family was willing to coordinate to ___ care 
in her home to help with the transition.   After coordinating 
for home ___, OT, home safety evaluation and elder services 
referral, pt was discharged home with the plan for 24hr care 
with another sister living in her home.   I provided verbal 
handoff to her PCP about the ongoing concern for underlying 
cognitive deficit and pt will be following up next week at 
___.  

Transition issues:
- follow up ___ given resolving ___ (creatinine 1.2 at 
discharge)
- follow up of neurocognitive status and ___ home safety 
assessment

> 30 min spent on clinical care on the day of discharge 
coordinating safe transition home with family and providing 
verbal handoff to PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy
Acute kidney injury
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent. Requires some prompting for 
ADLs
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 

 
Discharge Instructions:
You were admitted to the hospital for a change in mental status 
likely due to a urinary tract infection, dehydration causing 
kidney injury and major stressors in your life.  You were 
treated with IV antibiotics and fluids with improvement in 
kidney function.  Your mental status has improved significantly 
and your family will be staying with you on return home to 
support you as you continue to recover.  You will have a 
visiting nurse, occupational therapy and you are scheduled to 
see Dr. ___ week. 

Please make sure to keep the follow up appointments as scheduled 
and get follow up labs at that appointment.

Best wishes from your team at ___

 
Followup Instructions:
___